US08039450B2
6-Chloro-2-(2,2-difluoro-ethoxy)-nicotinonitrile (3)
POCl3 (7.5 mL, 81 mmol) was added to a solution of 6-chloro-2-(2,2-difluoro-ethoxy)-nicotinamide (6.39 g, 27.0 mmol) in acetonitrile (100 mL) at 14° C. over 5 minutes. The reaction mixture was heated to 60° C. for 1.5 hours then cooled to room temperature. The mixture was poured into an ice cold solution of aqueous NaOH (0.6M, 800 mL) and extracted with EtOAc (4×800 mL). The organic extracts were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash column chromatography (20% ethyl acetate/hexanes) to give the title compound as a light yellow oil which solidified upon standing (5.10 g, 86%).

reactant | POCl3 | 81 mmol, 7.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 6-chloro-2-(2,2-difluoro-ethoxy)-nicotinamide | 27.0 mmol, 6.39 g | ClC1=NC(=C(C(=O)N)C=C1)OCC(F)F | C8H7ClF2N2O2
reactant | NaOH | 0.6M, 800 mL | [OH-].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 6-Chloro-2-(2,2-difluoro-ethoxy)-nicotinonitrile | ClC1=NC(=C(C#N)C=C1)OCC(F)F | C8H5ClF2N2O
